US07960552B2
Cesium carbonate (62.6 mg, 192.2 μmol) was added to ethyl 7-fluoro-6-(4-hydroxyphenyl)-2-quinolinecarboxylate (54.4 mg, 174.7 μmol) and 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole (58.6 mg, 192.2 μmol) in N,N-dimethylformamide (1.7 mL) at room temperature. The resulting suspension was stirred for 68 hours, then water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 3:7 ethyl acetate:hexanes to give 49.4 mg (49%) of ethyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-7-fluoro-2-quinolinecarboxylate as an oil. 1H NMR (400 MHz, d6-DMSO): δ 8.61 (d, J=9 Hz, 1H), 8.23 (d, J=9 Hz, 1H), 8.11 (d, J=9 Hz, 1H), 8.02 (d, J=12 Hz, 1H), 7.65-7.62 (m, 2H), 7.56 (d, J=7 Hz, 2H), 7.56-7.52 (m, 1H), 6.96 (d, J=9 Hz, 2H), 4.90 (s, 2H), 4.42 (q, J=7 Hz, 2H), 3.48 (septet, J=7 Hz, 1H), 1.38 (t, J=7 Hz, 3H), 1.34 (d, J=7 Hz, 6H). ESI-LCMS m/z 579 (M+H)+.

reactant | Cesium carbonate | 192.2 μmol, 62.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 7-fluoro-6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 174.7 μmol, 54.4 mg | FC1=C(C=C2C=CC(=NC2=C1)C(=O)OCC)C1=CC=C(C=C1)O | C18H14FNO3
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 192.2 μmol, 58.6 mg | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.7 mL | CN(C=O)C | C3H7NO
product | ethyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-7-fluoro-2-quinolinecarboxylate | 49.4 mg, 49% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1F)C(=O)OCC)C(C)C | C31H25Cl2FN2O4
